US06642224B1
Ethyl 4-[(3-cyanophenylamino)methyl]-3-[4-(4-methyl-1,4-diazepan-1-yl)benzoylamino]benzoate (1.42 g) was dissolved in 30 ml of ethanol, then 291 mg of hydroxylamine hydrochloride and 0.78 ml of triethylamine were added and the mixture was stirred at 60° C. for 24 hours. The reaction solution was concentrated in vacuo and the resulting residue was purified by silica gel column chromatography using chloroform-methanol-aqueous ammonia (100:0:0 to 92:8:0.8) to give a crudely purified product, ethyl 4-({[3-(N-hydroxycarbamimidoyl)phenyl]amino}methyl)-3-[4-(4-methyl-1,4-diazepan-1-yl)benzoylamino]benzoate. The crudely purified product was further purified by ODS column chromatography using 0.002N aqueous solution of hydrochloric acid-methanol (100:0 to 88:12) as an eluting solvent and freeze-dried to give 1.03 g of ethyl 4-({[3-(N-hydroxycarbamimidoyl)phenyl]amino}methyl)-3-[4-(4-methyl-1,4-diazepan-1-yl)benzoylamino]benzoate hydrochloride.

reactant | Ethyl 4-[(3-cyanophenylamino)methyl]-3-[4-(4-methyl-1,4-diazepan-1-yl)benzoylamino]benzoate | 1.42 g | C(#N)C=1C=C(C=CC1)NCC1=C(C=C(C(=O)OCC)C=C1)NC(C1=CC=C(C=C1)N1CCN(CCC1)C)=O | C30H33N5O3
reactant | hydroxylamine hydrochloride | 291 mg | Cl.NO
reactant | triethylamine | 0.78 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | ethyl 4-({[3-(N-hydroxycarbamimidoyl)phenyl]amino}methyl)-3-[4-(4-methyl-1,4-diazepan-1-yl)benzoylamino]benzoate | ONC(=N)C=1C=C(C=CC1)NCC1=C(C=C(C(=O)OCC)C=C1)NC(C1=CC=C(C=C1)N1CCN(CCC1)C)=O | C30H36N6O4
